US06303783B1
Preparation of 3-(5-Amino-4-chloro-2-fluorophenyl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 2′-chloro-5′-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4′-fluoroacetanilide (24.42 g, 64.3 mmol) in ethanol is treated with 2N hydrochloric acid (200 ml), diluted with tetrahydrofuran, refluxed overnight, cooled to room temperature, partially concentrated in vacuo to remove ethanol and tetrahydrofuran, neutralized with 3N sodium hydroxide solution, and extracted with ethyl acetate. The organic extracts are combined, washed sequentially with saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title product as a light, brown solid (20.3 g, mp 132-135° C.).

reactant | 2′-chloro-5′-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4′-fluoroacetanilide | 64.3 mmol, 24.42 g | ClC1=C(NC(C)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C14H10ClF4N3O3
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(5-Amino-4-chloro-2-fluorophenyl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | NC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C12H8ClF4N3O2
